US08461179B1
A mixture of 1-(4-chloro-5-(1-ethyl-7-((4-methoxybenzyl)(methyl)amino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(2,5-difluorophenyl)urea (314 mg, 0.505 mmol) and anisole (273 mg, 2.52 mmol) was treated with TFA (3.0 mL, 51.9 mmol) and stirred at RT for 2.5 h. The mixture was concentrated to near-dryness, treated with EtOAc and satd. NaHCO3 and the resulting solid collected via filtration and dried to afford 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(2,5-difluorophenyl)urea (233 mg, 92% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.24 (m, 2H), 8.40 (s, 1H), 8.17 (d, J=8.7 Hz, 1H), 7.97 (m, 1H), 7.73 (s, 1H), 7.54 (d, J=11.0 Hz, 1H), 7.27 (m, 1H), 7.02 (m, 1H), 6.80 (m, 1H), 6.23 (s, 1H), 4.12 (q, J=7.1 Hz, 2H), 2.85 (d, J=4.9 Hz, 3H), 1.19 (t, J=7.0 Hz, 3H); MS (ESI) m/z: 502.2 [M+H]+.

reactant | 1-(4-chloro-5-(1-ethyl-7-((4-methoxybenzyl)(methyl)amino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(2,5-difluorophenyl)urea | 0.505 mmol, 314 mg | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)N(C)CC1=CC=C(C=C1)OC)CC)=O)NC(=O)NC1=C(C=CC(=C1)F)F)F | C32H27ClF3N5O3
reactant | anisole | 2.52 mmol, 273 mg | C1(=CC=CC=C1)OC | C7H8O
reactant | TFA | 51.9 mmol, 3.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(2,5-difluorophenyl)urea | 233 mg, 92% yield | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NC)CC)=O)NC(=O)NC1=C(C=CC(=C1)F)F)F | C24H19ClF3N5O2
